US05719182
h) Methyl(1RS,2RS,3SR)-5-Hydroxy-3-(4-methoxy-phenyl)-1-(3,4-methylenedioxyphenyl)indane-2-carboxylate
To a degassed solution of methyl(RS)-5-benzyloxy-3-(4-methoxyphenyl)-2-(3,4-methylenedioxyphenyl)indene-2-carboxylate (6.60 g, 13.0 mmol) in EtOAc (25 ml) and EtOH (175 ml) was added 5% palladium on activated carbon (0.6 g). The resulting suspension was shaken on a Parr hydrogenator at 60 psi H2 for 20 h, at which time NMR analysis of the reaction mixture indicated that the reaction was incomplete. The catalyst was removed by filtration through a pad of Celite, and fresh 5% palladium on activated carbon (0.6 g) was added. The mixture was shaken on a Parr hydrogenator at 60 psi H2 for an additional 48 h. The catalyst was removed by filtration through a pad of Gelite, and the filtrate was concentrated under reduced pressure. The residue was crystallized from EtOAc/hexanes to afford the title compound (4.83 g, 89%); m.p. 187°-188° C.

reactant | methyl(RS)-5-benzyloxy-3-(4-methoxyphenyl)-2-(3,4-methylenedioxyphenyl)indene-2-carboxylate | 13.0 mmol, 6.60 g | C(C1=CC=CC=C1)OC1=CC2=C(C(C=C2C=C1)(C(=O)OC)C1=CC2=C(C=C1)OCO2)C2=CC=C(C=C2)OC | C32H26O6
reactant | EtOAc | 25 ml | CCOC(=O)C | C4H8O2
solvent | EtOH | 175 ml | CCO | C2H6O
catalyst | palladium on activated carbon | 0.6 g | [Pd] | Pd
product | Methyl(1RS,2RS,3SR)-5-Hydroxy-3-(4-methoxy-phenyl)-1-(3,4-methylenedioxyphenyl)indane-2-carboxylate | 4.83 g, 89% | OC=1C=C2C(C(C(C2=CC1)C1=CC2=C(C=C1)OCO2)C(=O)OC)C2=CC=C(C=C2)OC | C25H22O6
